US06180627B2
tert-Butyl 2-[3-[(benzyloxy)carbonyl]amino-6-methyl-2-oxo-1(2H)-pyridinyl]acetate
A slurry of benzyl N-(6-methyl-2-oxo-1,2-dihydro-3-pyridinyl)carbamate (preparation 3) (20 g, 78 mmol) in 2-butanone (500 ml) was treated with K2CO3 (53.9 g, 94 mmol) and further 2-butanone (100 ml). The resultant mixture was treated cautiously with tert-butyl 2-bromoacetate (15.2 ml, 94 mmol) and stirred at room temperature for 18 hr. The solvent was evaporated and the crude material was partitioned between ethyl acetate and water. The aqueous layer was washed with ethyl acetate, the combined organic layers washed with sat aq brine and dried over Na2SO4. Removal of the drying agent by filtration followed by evaporation of the solvent gave the crude product which was purified by recrystallisation from ethyl acetate:hexane to give the desired product (white solid, 15.1 g, 52%). 1H NMR (CDCl3) δ: 1.40 (s, 9H), 2.20 (s, 3H), 4.70 (s, 2H), 5.20 (s, 2H), 6.05 (d, 1H), 7.40 (m, 5H), 7.70 (s, br, 1H), 7.90 (d, 1H). LRMS m/z=373.6 (M+1)+.

reactant | benzyl N-(6-methyl-2-oxo-1,2-dihydro-3-pyridinyl)carbamate | 78 mmol, 20 g | CC1=CC=C(C(N1)=O)NC(OCC1=CC=CC=C1)=O | C14H14N2O3
reactant | K2CO3 | 94 mmol, 53.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 2-bromoacetate | 94 mmol, 15.2 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | 2-butanone | 500 ml | CC(CC)=O | C4H8O
solvent | 2-butanone | 100 ml | CC(CC)=O | C4H8O
product | tert-Butyl 2-[3-[(benzyloxy)carbonyl]amino-6-methyl-2-oxo-1(2H)-pyridinyl]acetate | 15.1 g, 52% | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)C)CC(=O)OC(C)(C)C)=O | C20H24N2O5
